US08791132B2
To a solution of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole (90 mg, 0.466 mmol) in DMF (2 mL), sodium hydride (60%, 33 mg, 1.44 mmol) was added. After stirring for 10 min., methyl 5-(2-methyloxiran-2-yl)nicotinate (1.09 g, 12.4 mmol) was added to the reaction mixture, which was stirred at RT for 16 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was quenched with ice-water and extracted with EtOAc (2×100 mL). The aqueous layer was lyophilized and purified by reverse phase HPLC purification to obtain the 10 mg of 5-(1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-2-hydroxypropan-2-yl)pyridine-3-carboxylic acid. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.9 (d, 1H), 8.7 (d, 1H), 8.57 (d, 1H), 7.11 (s, 1H), 6.74 (d, 2H), 4.67 (dd, 1H),4.33 (m, 2H), 4.29 (dd, 1H), 3.9 (t, 1H), 3.6 (m, 2H), 3.2 (m, 1H), 3.11 (s, 3H), 2.3 (s, 3H), 1.79 (d, 3H). Separation by chiral HPLC provides enantiomers II-141a-b.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | 0.466 mmol, 90 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | sodium hydride | 1.44 mmol, 33 mg | [H-].[Na+]
reactant | methyl 5-(2-methyloxiran-2-yl)nicotinate | 12.4 mmol, 1.09 g | CC1(OC1)C=1C=NC=C(C(=O)OC)C1 | C10H11NO3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-2-hydroxypropan-2-yl)pyridine-3-carboxylic acid | 10 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C=2C=C(C=NC2)C(=O)O)CC1 | C22H25N3O3
